US05049667
a) Preparation of N-tosyl-bis(2-tosyloxy propyl) amine.
A solution of 53.2 g (0.4 mole) of diiso-propanolamine in 50 cm3 of pyridine is added dropwise with cooling to a solution of 248 g (1.3 mole) of tosyl chloride in 200 cm3 of pyridine at 0° C. so that the temperature is maintained between 0° and 5° C. The mixture is left at this temperature for 72 h. It is then poured into 2 l of water plus ice and 250 cm3 of concentrated hydrochloric acid.

reactant | diiso-propanolamine | 0.4 mole, 53.2 g | CC(CNCC(C)O)O | C6H15NO2
reactant | tosyl chloride | 1.3 mole, 248 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | water | 2 l | O | H2O
reactant | hydrochloric acid | 250 cm3 | Cl | ClH
solvent | pyridine | 50 cm3 | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 200 cm3 | N1=CC=CC=C1 | C5H5N
product | N-tosyl-bis(2-tosyloxy propyl) amine | S(=O)(=O)(C1=CC=C(C)C=C1)N(CC(C)OS(=O)(=O)C1=CC=C(C)C=C1)CC(C)OS(=O)(=O)C1=CC=C(C)C=C1 | C27H33NO8S3
